2130-08-13 08:26:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure and pneumonia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2130-8-12**] 09:00 AM
 SPUTUM CULTURE - At [**2130-8-12**] 10:15 PM
   -Given 1L bolus this AM.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-12**] 11:15 PM
   Ceftriaxone - [**2130-8-13**] 08:00 AM
   Azithromycin - [**2130-8-13**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-8-12**] 03:30 PM
   Fentanyl - [**2130-8-12**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2130-8-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-13**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 112 (94 - 112) bpm
   BP: 158/74(94) {69/52(58) - 158/78(96)} mmHg
   RR: 13 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,722 mL
                                                                    597 mL
   PO:
             TF:
   IVF:
                                                                  2,722 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    335 mL
   Urine:
                                                                    675 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,047 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 211 (211 - 684) mL
   PS : 8 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.39/43/156/23/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   452 K/uL
   7.5 g/dL
   79 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.0 mEq/L
   25 mg/dL
   107 mEq/L
   139 mEq/L
   24.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2130-8-12**]  12:34 PM
                             [**2130-8-12**]  12:37 PM
                             [**2130-8-12**]  09:43 PM
                             [**2130-8-13**]  04:23 AM
   WBC
   7.0
   Hct
   24.9
   Plt
   452
   Cr
   1.3
   TropT
   0.07
   0.08
   TCO2
   27
   Glucose
   79
   Other labs: CK / CKMB / Troponin-T:54/6/0.08, ALT / AST:15/33, Alk Phos
   / T Bili:107/0.2, Differential-Neuts:81.8 %, Lymph:8.4 %, Mono:3.9 %,
   Eos:5.6 %, LDH:325 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: [**8-12**] CT Chest: 1. Extensive consolidation and collapse of the
   right middle lobe and right
   lower lobe with air bronchograms.
   2. Small-to-moderate right-sided pleural effusion, with enhancing
   pleura on
   the right concerning for possible empyema.
   3. Small left pleural effusion.
   4. Extensive emphysematous changes.
   5. 4-7 mm lung nodules in the left lung base. Followup CT within six
   months
   is recommended to ensure resolution.
   Microbiology: BC pending
    Sputum gram stain:  NO MICROORGANISMS SEEN.
   Assessment and Plan
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   Assessment and Plan: This is a 67 F with a history of SCLC and previous
   PNA presneting with a large (complex appearing) RLL consolidation,
   leukocytosis w/ left shift, and respiratory distress requiring
   intubation, all of which suggest a significant RLL pneumonia.
   #  PNEUMONIA: Not displaying septic physiology currently although UOP
   on the lower end of normal.
   - Put on Clinda, Ceftriaxone, and Vancomycin. Azithro d/c
d and clinda
   started for better anaerobe coverage.
   - f/u BCX
   - leukocytosis trending down
   - Bronchoscopy done today. Showed large mucus plug, but no
   endobronchial lesion. Samples sent to micro and cytology.
   - Will discuss with radiology if air fluid level seen on CT can be
   drained.
   #  RESP DISTRESS:
   - Will attempt to wean.
   # ARF: Cr at 1.5 from baseline of 1.0. Likely intravascular depletion
   in the setting of third spacing from significant infection. Will trend
   with fluid resuscitation.
   - Cr improving
   - IVF as needed, goal UOP > 30cc/hr. Will give 1L NS and reassess blood
   pressure and tachycardia.
   # FEN: IVF, replete electrolytes, NPO
   # Communication: Patient  +  HCP/ATTORNEY [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 911**] [**Telephone/Fax (1) 3956**]
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-8-12**] 09:25 AM
   20 Gauge - [**2130-8-12**] 09:25 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:pending above

2130-08-13 12:10:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Underlying COPD and SCCa of lung s/p chemo/XRT
   Admitted/intubated yesterday for acute respiratory failure from PNA
   24 Hour Events:
 INVASIVE VENTILATION - START [**2130-8-12**] 09:00 AM
 SPUTUM CULTURE - At [**2130-8-12**] 10:15 PM
   Episode of hypotension responding to 1 liter fluid
   [**Name (NI) 160**] friends brought in a chest CT from 10 days ago with radiology
   report also suggesting PNA
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: intubated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-12**] 11:15 PM
   Ceftriaxone - [**2130-8-13**] 08:00 AM
   Azithromycin - [**2130-8-13**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-8-12**] 03:30 PM
   Fentanyl - [**2130-8-12**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2130-8-13**] 08:00 AM
   Other medications:
   alb/atrovent, colace, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-13**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 104 (94 - 112) bpm
   BP: 135/67(82) {87/52(60) - 158/74(94)} mmHg
   RR: 12 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,722 mL
                                                                    603 mL
   PO:
             TF:
   IVF:
                                                                  2,722 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    465 mL
   Urine:
                                                                    675 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,047 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 590 (211 - 684) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.39/43/156/23/1
   Ve: 6.3 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered rales), small amount of thick, dark yellow secretions
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   7.5 g/dL
   452 K/uL
   79 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.0 mEq/L
   25 mg/dL
   107 mEq/L
   139 mEq/L
   24.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2130-8-12**]  12:34 PM
                             [**2130-8-12**]  12:37 PM
                             [**2130-8-12**]  09:43 PM
                             [**2130-8-13**]  04:23 AM
   WBC
   7.0
   Hct
   24.9
   Plt
   452
   Cr
   1.3
   TropT
   0.07
   0.08
   TCO2
   27
   Glucose
   79
   Other labs: CK / CKMB / Troponin-T:54/6/0.08, ALT / AST:15/33, Alk Phos
   / T Bili:107/0.2, Differential-Neuts:81.8 %, Lymph:8.4 %, Mono:3.9 %,
   Eos:5.6 %, LDH:325 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR from last night: ETT higher, otherwise unchanged
   Microbiology: sputum GS no organisms
   Assessment and Plan
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   1. PNA/acute respiratory failure
   - Currently on Vanc/CTX/azithromycin
   - New information from outside, namely radiology report from 10 days
   ago,raises issue of whether her infiltrate is entirely infectious or
   whether there's a post-obstructive component. Had been under the
   impression that SCCa was under remission, though OSH radiology reports
   suggest otherwise
   - Add clinda for improved anerobic coverage
   -Bronch/airway survey
   -dx thoracentesis of pleural effusion
   2. Tachycardia: from sepsis and needs further fluid resuscitation
   3. SCCa of lung- current status unclear; was unable to reach pt
   personal oncologist but will try again after weekend
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-8-12**] 09:25 AM
   20 Gauge - [**2130-8-12**] 09:25 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Pt
s health care proxy/POA [**First Name8 (NamePattern2) **] [**Name (NI) 911**])
   updated.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-08-14 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**8-13**]/
   - Spiked 101. Blood, urine, sputum, stool cultures sent. Given tylenol
   - Given IVF 1L bolus followed by maintanence 125cc D5 1/2NS for 2L
 BRONCHOSCOPY - At [**2130-8-13**] 12:30 PM
 URINE CULTURE - At [**2130-8-13**] 08:00 PM
 BLOOD CULTURED - At [**2130-8-13**] 08:30 PM
 SPUTUM CULTURE - At [**2130-8-14**] 12:15 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-12**] 11:15 PM
   Ceftriaxone - [**2130-8-13**] 08:00 AM
   Azithromycin - [**2130-8-13**] 08:00 AM
   Clindamycin - [**2130-8-14**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2130-8-13**] 12:59 PM
   Midazolam (Versed) - [**2130-8-13**] 01:03 PM
   Heparin Sodium (Prophylaxis) - [**2130-8-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-14**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 94 (87 - 140) bpm
   BP: 135/59(78) {88/50(60) - 159/99(115)} mmHg
   RR: 14 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,168 mL
                                                                  1,706 mL
   PO:
             TF:
   IVF:
                                                                  2,058 mL
                                                                  1,706 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    215 mL
   Urine:
                                                                  1,075 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,093 mL
                                                                  1,491 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 615 (440 - 650) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   452 K/uL
   7.5 g/dL
   79 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.0 mEq/L
   25 mg/dL
   107 mEq/L
   139 mEq/L
   24.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2130-8-12**]  12:34 PM
                             [**2130-8-12**]  12:37 PM
                             [**2130-8-12**]  09:43 PM
                             [**2130-8-13**]  04:23 AM
   WBC
   7.0
   Hct
   24.9
   Plt
   452
   Cr
   1.3
   TropT
   0.07
   0.08
   TCO2
   27
   Glucose
   79
   Other labs: CK / CKMB / Troponin-T:54/6/0.08, ALT / AST:15/33, Alk Phos
   / T Bili:107/0.2, Differential-Neuts:81.8 %, Lymph:8.4 %, Mono:3.9 %,
   Eos:5.6 %, LDH:325 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   Assessment and Plan: This is a 67 F with a history of SCLC and previous
   PNA presenting with a large (complex appearing) RLL consolidation,
   leukocytosis w/ left shift, and respiratory distress requiring
   intubation, all of which suggest a significant RLL pneumonia.
   .
   #  PNEUMONIA: Large RLL consolidation, white count, and increasing O2
   requirement all c/w PNA. Not displaying septic physiology currently
   although UOP on the lower end of normal. Surprising that she did not
   present sooner given magnitude of PNA.
   - Will d/w radiology whether there is a cavitary component to her PNA
   which would necessitate vanco & anaerobic covg, otherwise will be
   continue with CTX/azithro.
   - fluid resuiscitation with goal UOP >60/hr
   - f/u BCX, SPUTUM CX (endotracheal)
   - Heme/Onc records from OSH needed (please obtain [**8-14**])
   - Call IR [**8-14**] to see if air fluid level in lungs can be drained
   .
   #  RESP DISTRESS: Serial CXRs done in ED show some improvement in
   intersitial opacification (primarily RUL). This quick reversibilty and
   her reported improvement to Lasix at OSH ED suggest that there may be
   some component of fluid overload. That said, no documented hx of CHF
   here and otherwise dry on exam.  Interstitial pattern could be
   secondary to increased permeability in setting of infxn. No plan to
   wean from vent currently as early in the course of treatment of PNA and
   suspect that she would develop the significant dyspnea she had this AM.
   Doing well on [**10-30**] with FiO2 of 40%. Will complete ROMI given sudden
   onset of SOB which awoke her from sleep.
   .
   #  LEUKOCYTOSIS: As above, most likely secondary to process in lung
   although will get LFTs and UCx to evaluate for other causes.
   .
   # ARF: Cr at 1.5 from baseline of 1.0. Likely intravascular depletion
   in the setting of third spacing from significant infection. Will trend
   with fluid resuscitation and if no improvement, will further w/u w/ U
   lytes.
   .
   # FEN: IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin , BOOTS
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient  +  HCP/ATTORNEY [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 911**] [**Telephone/Fax (1) 3956**]
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-8-12**] 09:25 AM
   20 Gauge - [**2130-8-13**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-08-14 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2130-8-13**] 12:30 PM
 URINE CULTURE - At [**2130-8-13**] 08:00 PM
 BLOOD CULTURED - At [**2130-8-13**] 08:30 PM
 SPUTUM CULTURE - At [**2130-8-14**] 12:15 AM
   [**8-13**]/
   - Heme/Onc records from OSH needed (please obtain [**8-14**])
   - Spiked 101. Blood, urine, sputum, stool cultures sent. Given tylenol
   - Call IR [**8-14**] to see if air fluid level in lungs can be drained
   - Given IVF 1L bolus followed by maintanence 125cc D5 1/2NS for 2L
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-12**] 11:15 PM
   Ceftriaxone - [**2130-8-13**] 08:00 AM
   Azithromycin - [**2130-8-13**] 08:00 AM
   Clindamycin - [**2130-8-14**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2130-8-13**] 12:59 PM
   Midazolam (Versed) - [**2130-8-13**] 01:03 PM
   Heparin Sodium (Prophylaxis) - [**2130-8-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-14**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 94 (87 - 140) bpm
   BP: 135/59(78) {88/50(60) - 159/99(115)} mmHg
   RR: 14 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,168 mL
                                                                  1,708 mL
   PO:
             TF:
   IVF:
                                                                  2,058 mL
                                                                  1,708 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    215 mL
   Urine:
                                                                  1,075 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,093 mL
                                                                  1,493 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 615 (440 - 650) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   445 K/uL
   7.3 g/dL
   79 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.0 mEq/L
   25 mg/dL
   107 mEq/L
   139 mEq/L
   24.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2130-8-12**]  12:34 PM
                             [**2130-8-12**]  12:37 PM
                             [**2130-8-12**]  09:43 PM
                             [**2130-8-13**]  04:23 AM
                             [**2130-8-14**]  06:15 AM
   WBC
   7.0
   7.4
   Hct
   24.9
   24.6
   Plt
   452
   445
   Cr
   1.3
   TropT
   0.07
   0.08
   TCO2
   27
   Glucose
   79
   Other labs: CK / CKMB / Troponin-T:54/6/0.08, ALT / AST:15/33, Alk Phos
   / T Bili:107/0.2, Differential-Neuts:81.8 %, Lymph:8.4 %, Mono:3.9 %,
   Eos:5.6 %, LDH:325 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   Assessment and Plan: This is a 67 F with a history of SCLC and previous
   PNA presenting with a large (complex appearing) RLL consolidation,
   leukocytosis w/ left shift, and respiratory distress requiring
   intubation, all of which suggest a significant RLL pneumonia.
   #  PNEUMONIA: Large RLL consolidation, white count, and increasing O2
   requirement all c/w PNA. Not displaying septic physiology currently
   although UOP on the lower end of normal. Surprising that she did not
   present sooner given magnitude of PNA.
   - Will d/w radiology whether there is a cavitary component to her PNA
   which would necessitate vanco & anaerobic covg, otherwise will be
   continue with CTX/azithro.
   - fluid resuiscitation with goal UOP >60/hr
   - f/u BCX, SPUTUM CX (endotracheal)
   - Heme/Onc records from OSH needed (please obtain [**8-14**])
   - Call IR [**8-14**] to see if air fluid level in lungs can be drained
   #  RESP DISTRESS: Serial CXRs done in ED show some improvement in
   intersitial opacification (primarily RUL). This quick reversibilty and
   her reported improvement to Lasix at OSH ED suggest that there may be
   some component of fluid overload. That said, no documented hx of CHF
   here and otherwise dry on exam.  Interstitial pattern could be
   secondary to increased permeability in setting of infxn. No plan to
   wean from vent currently as early in the course of treatment of PNA and
   suspect that she would develop the significant dyspnea she had this AM.
   Doing well on [**10-30**] with FiO2 of 40%. Will complete ROMI given sudden
   onset of SOB which awoke her from sleep.
   #  LEUKOCYTOSIS: As above, most likely secondary to process in lung
   although will get LFTs and UCx to evaluate for other causes.
   # ARF: Cr at 1.5 from baseline of 1.0. Likely intravascular depletion
   in the setting of third spacing from significant infection. Will trend
   with fluid resuscitation and if no improvement, will further w/u w/ U
   lytes.
   # FEN: IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin , BOOTS
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient  +  HCP/ATTORNEY [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 911**] [**Telephone/Fax (1) 3956**]
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-8-12**] 09:25 AM
   20 Gauge - [**2130-8-13**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-08-15 07:07:00 Physician Resident Progress Note
Chief Complaint: Pneumonia
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2130-8-14**] 02:15 PM
 NASAL SWAB - At [**2130-8-14**] 03:17 PM
   - improved, suceeded at PS trial, extubated
   - CXR looks more fluid overloaded and high BPs and HR so stopped IVF,
   restarted home Metoprolol and Lasix
   - CM consult in because concern by HCP, [**Year (4 digits) 1577**] that pt. unsafe at
   home
   - spoke with HCP on current medical status and Full Code status
   - unclear what home Metoprolol dose is- this will have to be clarified
   - asked HCP to send request to [**Name (NI) 1654**] [**Name (NI) 7869**] for CT  results
   - Dr. [**Last Name (STitle) 560**] spoke with [**Last Name (STitle) 1577**] (acting proxy when lawyer not
   present) who came to conclusion that will likely need transfer of care
   back.
   - pt. with poor short term memory at baseline- given home Alprazolam
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2130-8-13**] 08:00 AM
   Ceftriaxone - [**2130-8-14**] 07:59 AM
   Vancomycin - [**2130-8-14**] 10:00 PM
   Clindamycin - [**2130-8-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-8-14**] 10:18 AM
   Heparin Sodium (Prophylaxis) - [**2130-8-14**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-15**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 80 (80 - 115) bpm
   BP: 120/56(71) {108/51(66) - 170/105(114)} mmHg
   RR: 17 (10 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.7 kg (admission): 47.4 kg
   Height: 66 Inch
                  Total In:
                                                                  3,274 mL
                                                                    240 mL
   PO:
                                                                     60 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,124 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                  1,580 mL
   Urine:
                                                                  1,370 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,904 mL
                                                                 -1,340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 231 (231 - 598) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: ///24/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: decreased
   breath sounds throughout, but Left base the worst, crackles at bases
   bilaterally, no egophany : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person only, thought it was [**Hospital1 318**] and [**Month (only) 1646**]
   [**2120**], Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   449 K/uL
   7.2 g/dL
   89 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.5 mEq/L
   13 mg/dL
   106 mEq/L
   140 mEq/L
   23.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2130-8-12**]  12:34 PM
                             [**2130-8-12**]  12:37 PM
                             [**2130-8-12**]  09:43 PM
                             [**2130-8-13**]  04:23 AM
                             [**2130-8-14**]  06:15 AM
                             [**2130-8-15**]  05:58 AM
   WBC
   7.0
   7.4
   6.3
   Hct
   24.9
   24.6
   23.2
   Plt
   452
   445
   449
   Cr
   1.3
   1.1
   1.1
   TropT
   0.07
   0.08
   TCO2
   27
   Glucose
   79
   98
   89
   Other labs: PT / PTT / INR:12.0/23.9/1.0, CK / CKMB /
   Troponin-T:54/6/0.08, ALT / AST:15/33, Alk Phos / T Bili:107/0.2,
   Differential-Neuts:85.0 %, Lymph:6.5 %, Mono:2.8 %, Eos:5.4 %, LDH:325
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: [**8-14**] CXR: Worsening pulmonary edema superimposed on background
   of
   emphysema. New retrocardiac opacity may reflect consolidation versus
   worsening atelectasis and/or effusion.
   Microbiology: [**8-14**] Sputum culture: >25 PMNs and <10 epithelial
   cells/100X field.
         NO MICROORGANISMS SEEN.
   Blood cultures 7/18 and [**8-13**]: no growth to date
   UC [**8-13**]: pending
   Assessment and Plan
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Discharge Planning
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   Assessment and Plan: This is a 67 F with a history of SCLC and previous
   PNA presenting with a large (complex appearing) RLL consolidation,
   leukocytosis w/ left shift, and respiratory distress requiring
   intubation, all of which suggest a significant RLL pneumonia.
   #  PNEUMONIA: Large RLL consolidation, white count, and O2 requirement
   all c/w PNA.
   -Sputum culture from bronchoscopy has not grown anything.  We are less
   concerned for staph or other atypical bacteria. We stopped Vanc and
   Clinda. Low threshold for restarting
   - continue with Ceftriaxone day [**5-3**]
   - f/u BCX
   #  RESP DISTRESS: Initially developed respiratory distress in ER and
   electively intubated
   -CXR showed excess fluid, so restarted on home Lasix dose
   - Pt extubated yesterday and sating well
   #HTN: Pt on Metoprolol 12.5mg po BID
   - Will try and confirm home metoprolol dose
   #Mental Status change:
   -Continue Alprazolam and Paxil
   -Non-pharm measure including frequent reorientation
   #  LEUKOCYTOSIS: As above, most likely secondary to process in lung
   - Improved
   -Continue antibiotics
   # ARF: Cr at 1.5 from baseline of 1.0. Resolved with previous fluid
   administration
   # Communication: Patient  +  HCP/ATTORNEY [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 911**] [**Telephone/Fax (1) 3956**]
   ICU Care
   Nutrition:
   Comments: Regular heart healthy
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2130-8-12**] 09:25 AM
   20 Gauge - [**2130-8-13**] 03:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: As in note, spoke to HCP and [**Name2 (NI) 1577**]. [**Name (NI) **]
   continue to have further discussions.
   Code status: Full code
   Disposition:pending above, will discuss possible transfer to [**Location (un) 1654**]
   [**Location (un) **] with oncologist about continuing care there. Will discuss with
   case management.